US05116402
Preparation of trichloro-acetaldehyde dihexyl-acetal
A mixture of 5 g of chloral hydrate, 11 g of hexanol, 0.1 g of 4-methyl-benzene-sulphonic acid and 50 ml of benzene is kept at reflux temperature and the formed water is separated by means of a Dean-Stark apparatus. After a reaction time of 9 hours the benzene is washed with a sodium hydrogen carbonate solution and water, dried on magnesium sulfate, then distilled in vacuo.

reactant | chloral hydrate | 5 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | hexanol | 11 g | C(CCCCC)O | C6H14O
reactant | 4-methyl-benzene-sulphonic acid | 0.1 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | trichloro-acetaldehyde dihexyl-acetal | C(CCCCC)OC(C(Cl)(Cl)Cl)OCCCCCC | C14H27Cl3O2
